US07517889B2
To a solution of 3-(1H-tetrazol-5-yl)-piperidine-1-carboxylic acid benzyl ester (1 g, 3.5 mmol) in MeOH (20 mL) is added Pd on carbon (10%, 150 mg) at room temperature. The mixture is charged with Ar gas a few times before attaching a hydrogen gas balloon. After 30 h at 20° C., the mixture is filtered, and concentrated to afford 3-(1H-tetrazol-5-yl)-piperidine. LCMS: RT=0.54 minutes, MS: 154 (M+H).

reactant | 3-(1H-tetrazol-5-yl)-piperidine-1-carboxylic acid benzyl ester | 3.5 mmol, 1 g | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C1=NN=NN1 | C14H17N5O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd on carbon | 150 mg | [Pd] | Pd
product | 3-(1H-tetrazol-5-yl)-piperidine | N1N=NN=C1C1CNCCC1 | C6H11N5
